US05883134
2-Ethylthio-1-nitrobutane was prepared by dropwise addition of a solution of triethylamine (16.77 g., 0.166 mol) and acetonitrile (50 ml.) to a stirred solution of 2-acetoxy-1-nitrobutane (26.50 g., 0.164 mol) and ethanethiol (11.20 g., 0.164 mol) over 30 minutes at 0°-5° C. Upon complete addition, the resulting solution was stirred for 1 hour at 0°-5° C., and then was poured into dilute aqueous hydrochloric acid solution (500 ml.). The organics were extracted into methylene chloride (3×150 ml.) and the combined portions were washed with deionized water (2×200 ml.), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The product was distilled (1.5 Torr., 72°-75° C., internal) yielding a clear oil, 23.03 g., 86% yield. 1H-NMR (CDC13): δ 1.1, t, 3H, --CH3 ; 1.29, t, 3H, SCH2CH3 ; 2.5-2.85, m, 2H, --CH2 --; 2.6, q, 2H, SCH2 --; 3.28, m, 1H, CH; 4.5, d, 2H, --CH2NO2.

reactant | triethylamine | 0.166 mol, 16.77 g | C(C)N(CC)CC | C6H15N
reactant | 2-acetoxy-1-nitrobutane | 0.164 mol, 26.50 g | C(C)(=O)OC(C[N+](=O)[O-])CC | C6H11NO4
reactant | ethanethiol | 0.164 mol, 11.20 g | C(C)S | C2H6S
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Ethylthio-1-nitrobutane | 86% yield | C(C)SC(C[N+](=O)[O-])CC | C6H13NO2S
